US04054741
To a solution of 7-(1-chloro-2,6-dioxocyclohexyl)-5-heptynoic acid methyl ester (23.6 g), described in Example 14, in xylene (250 ml) is added powdered sodium carbonate (11.8 g) and the mixture stirred and heated at refluxed for 16 hr. After cooling the mixture is washed with water to neutral, dried over magnesium sulfate, and the solvent evaporated to give the crude cyclopentenone ester. Distillation of the crude ester at 0.6 mm Hg affords 7-(5-oxocyclopent-1-enyl)-5-heptynoic acid methyl ester, b.p. 142° - 156° C.

reactant | 7-(1-chloro-2,6-dioxocyclohexyl)-5-heptynoic acid methyl ester | 23.6 g | COC(CCCC#CCC1(C(CCCC1=O)=O)Cl)=O | C14H17ClO4
reactant | sodium carbonate | 11.8 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | xylene | 250 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 7-(5-oxocyclopent-1-enyl)-5-heptynoic acid methyl ester | COC(CCCC#CCC1=CCCC1=O)=O | C13H16O3
